* Ron DC sweep — ngspice behavioral macromodel (same equations as Python / VA).
* Reference: Zhou et al., NEWCAS 2021.

.title switch_model_ngspice_ron_sweep

.param vclk_v=1.8
.param vclk_bar_v=0
.param vin_start_v=0
.param vin_stop_v=1.8
.param vin_step_v=0.0367346938776

Vclk clk 0 DC {vclk_v}
Vclkb clkbar 0 DC {vclk_bar_v}
Vin in 0 DC 0.9

* Probe outputs Ron(in) directly from macromodel equations.
Bprobe 0 probe V = { abs(1 / ((((V(clk)>0.4)*(2e-05*10.0*max(V(clk)-V(in)-0.4,1e-9)) + (V(clk)<=0.4)*1e-12) + ((V(clkbar)-V(in)<-0.4)*(1.5e-05*10.0*max(-0.4-(V(clkbar)-V(in)),1e-9)) + (V(clkbar)-V(in)>=-0.4)*1e-12)))) }

.dc Vin {vin_start_v} {vin_stop_v} {vin_step_v}
.control
run
set wr_singlescale
wrdata ron_sweep.raw v(in) v(probe)
.endc

.end
